US07723329B2
A solution of toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester (0.359 g, 0.760 mmol) and morpholine (1.0 mL, 11 mmol) in THF (8 mL) was stirred at 70° C. for 6 hours in a sealed tube. After cooling somewhat, the reaction mixture was solvent evaporated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was then washed with water and brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 5% methanol in chloroform. After drying in vacuo at 57° C. for 20 minutes, 3-benzenesulfonyl-5-(2-morpholin-4-yl-ethoxy)-1H-indazole as an off-white foam (0.0443 g, 15.1%) was obtained. This was dissolved in methanol and chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried in vacuo at 75° C. for 16.5 hours to yield the hydrochloride as a light orange foam (0.0411 g). Mass Spectrum (+EI, [M+H]+) m/z 388. 1HNMR (300 MHz, DMSO-d6): δ14.31 (s, 1H), 10.82-88 (br, 1H), 8.03-8.07 (m, 2H), 7.62-7.76 (m, 4H), 7.49 (d, 1H, J=2.10 Hz), 7.26 (dd, 1H, J=9.14 Hz and 2.28 Hz), 4.54 (s, 2H), 4.02 (d, 2H, J=11.71 Hz), 3.80-3.87 (m, 2H), 3.51-3.73 (m, 4H), 3.19-3.31 ppm (m, 2H).

reactant | toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester | 0.760 mmol, 0.359 g | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H20N2O6S2
reactant | morpholine | 11 mmol, 1.0 mL | N1CCOCC1 | C4H9NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-benzenesulfonyl-5-(2-morpholin-4-yl-ethoxy)-1H-indazole | 0.0443 g, 15.1% | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCN1CCOCC1 | C19H21N3O4S
